US07683096B2
0.8 g of phenyltrimethylammonium tribromide was added to a mixture comprising 1.5 g of the crude product of methyl m-isobutyrylbenzoate obtained in the above step (3) and 20 ml of tetrahydrofuran, and followed by a reaction at room temperature overnight. After completion of the reaction, the precipitated crystal was separated by filtration, then tetrahydrofuran was distilled off. The residue was dissolved in ethyl acetate, then washed with a saturated sodium chloride aqueous solution, followed by drying over anhydrous sodium sulfate. Then, concentration under reduced pressure was carried out, and then, rough purification was carried out by silica gel column chromatography to obtain 0.27 g of crude 3′-methoxycarbonyl-2-bromo-2-methylpropiophenone. The NMR spectrum data of this product were as follows.

reactant | phenyltrimethylammonium tribromide | 0.8 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | methyl m-isobutyrylbenzoate | C(C(C)C)(=O)C=1C=C(C(=O)OC)C=CC1 | C12H14O3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 3′-methoxycarbonyl-2-bromo-2-methylpropiophenone | 0.27 g | COC(=O)C=1C=C(C=CC1)C(C(C)(C)Br)=O | C12H13BrO3
